US04190431
1-Methyl-3-(4'-fluorophenyl)-3-hydroxyurea (10.0 g; 0.054 moles) was dissolved in dioxane (80 ml.) and mixed with a 2 N aqueous sodium hydroxide (32 ml; 0.064 mole). Ethyl chloroformate (5.7 ml; 0.06 mole) was added dropwise to the mixture at 10°-15° C. with stirring and the stirring continued for 1/2 hour after the addition was completed. The product which precipitated as formed was removed by filtration, washed with water and dried. The product was recrystallized from methanol and dried under vacuum to yield 2-(4'-fluorophenyl)-4-methyl-1,2,4-oxadiazolidine-3,5-dione as a solid melting 97°-99° C. and having the following elemental analysis as calculated for C9H7FN2O3 :

reactant | 1-Methyl-3-(4'-fluorophenyl)-3-hydroxyurea | 0.054 moles, 10.0 g | CNC(=O)N(O)C1=CC=C(C=C1)F | C8H9FN2O2
reactant | sodium hydroxide | 0.064 mole, 2 N, 32 ml | [OH-].[Na+]
reactant | Ethyl chloroformate | 0.06 mole, 5.7 ml | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 2-(4'-fluorophenyl)-4-methyl-1,2,4-oxadiazolidine-3,5-dione | FC1=CC=C(C=C1)N1OC(N(C1=O)C)=O | C9H7FN2O3
